US08017809B2
Bis(4,4′-(phenyl-1-piperidylethoxyboryl)benzyl) ether
The entitled compound (22 mg) was obtained by allowing 41 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 13 mg of 1-piperidineethanol to act in 1 mL of ethanol.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 41 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | 1-piperidineethanol | 13 mg | N1(CCCCC1)CCO | C7H15NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-1-piperidylethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCCN1CCCCC1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCN1CCCCC1)C1=CC=CC=C1 | C40H50B2N2O3
